*****************************************************************
* NXP PSMN4R0-30YLD
*
* Polarity N-Channel
* Ratings 30V/4.000000E-003OHMS/94.6076862560408A
*
* Date Created Tue Jul 30 00:13:34 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R0-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 2.51327412287183E-08
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 9.81801357717194E-07
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 7.91681348704628E-07
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00261365063004123 TC=0.00525136284671624,5.67000635219742E-06
RBD 9 4 0.00146591280801696 TC=0.00525136284671624,5.67000635219742E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.05018503815989e-09
RG 1 2 2.21036

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	826.256001673035
+ -1	579.01
+ -0.5	444.191
+ -0.2	386.007
+ -0.1	384.71
+ 0	362.9542
+ 0.1	326.08112
+ 0.2	325.66492
+ 0.5	283.21372
+ 1	238.69868
+ 2	190.24556
+ 3	162.0638
+ 4	140.82132
+ 5	123.853
+ 6	111.58336
+ 8	97.89524
+ 10	92.00656
+ 12	89.26924
+ 15	87.11956



.MODEL MINT NMOS(Vto=2.1407846522678 Kp=2.408153e+002 Nfs=360000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.29965370331247e-12
+ N=1 M=0.33 VJ=0.68 Fc=0.5 Cjo=2.0428878e-09 Tt=1.192e-08)

.ENDS

